US04115398
The process for the preparation of this compound and its physical properties will be given below. A solution of 5 grams of p-methylcinnamyl chloride in 50 milliliters of ethanol is added dropwise to a solution of 8.93 grams of isoindoline in 50 milliliters of ethanol, following which the mixture is stirred overnight at room temperature. After completion of the reaction, the reaction mixture is concentrated followed by adding chloroform to the residue and filtering the insolubles off. Next, the solvent is distilled off, and the residue is purified by silica gel column chromatography to obtain an oily product, which is transformed into a hydrochloride in a customary manner and recrystallized from a methanol-ether mixture to obtain 4.1 grams (yield 47.8%) of N-(p-methylcinnamyl)-isoindoline hydrochloride as crystals having a melting point of 213°-214° C. (decomposition).

reactant | p-methylcinnamyl chloride | 5 grams | CC1=CC=C(C=CCCl)C=C1 | C10H11Cl
reactant | isoindoline | 8.93 grams | C1NCC2=CC=CC=C12 | C8H9N
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 50 milliliters | C(C)O | C2H6O
solvent | ethanol | 50 milliliters | C(C)O | C2H6O
product | N-(p-methylcinnamyl)-isoindoline hydrochloride | 4.1 grams, yield 47.8% | Cl.CC1=CC=C(C=CCN2CC3=CC=CC=C3C2)C=C1 | InChI=1S/C18H19N.ClH/c1-15-8-10-16(11-9-15)5-4-12-19-13-17-6-2-3-7-18(17)14-19;/h2-11H,12-14H2,1H3;1H
